US03983135
1-(1-Methyl-4-oxo-2-imidazolidinylidene)-3-p-chlorophenylurea
To a stirring suspension of creatinine (11.88 g, 0.105 mole) in 100 ml dry DMF, p-chlorophenylisocyanate (15.36 g, 0.100 mole) is added dropwise with cooling. The mixture is stirred for 16 hours and then poured into about 500 ml of iced-water to yield the crystalline product which is filtered off, washed with water and recrystallized twice from acetone-methanol, once from tetrahydrofuran (THF) and then from DMF-methanol. The resultant pure 1-(1-methyl-4-oxo-2-imidazolidinylidene)-3-p-chlorophenylurea is dried in vacuo for 24 hours; m.p. 190°-2°C dec.

reactant | creatinine | 0.105 mole, 11.88 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | p-chlorophenylisocyanate | 0.100 mole, 15.36 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(1-Methyl-4-oxo-2-imidazolidinylidene)-3-p-chlorophenylurea | CN1C(NC(C1)=O)=NC(=O)NC1=CC=C(C=C1)Cl | C11H11ClN4O2
